US06281357B1
(a) Methyl (N-benzyl-N-methylsulfamoyl)acetate
To a stirred solution of N-methyl benzylamine (7 ml, 54.2 mmol) in dichloromethane (10 ml) at 0-5° C. under an atmosphere of nitrogen was added dropwise a solution of methyl chlorosulfonylacetate (prepared by the method of M. J. Szymonifka and J. V. Heck, Tetrahedron Lett., 1989, 30, 22, 2869) (4.26 g, 24.7 mmol) in dichloromethane (5 ml), maintaining the temperature below 5° C. The yellow solution was then warmed to ambient temperature over a 2 hr period before water (30 ml) was added. The organic phase was partitioned and evaporated in vacuo to give a yellow oil. This was purified by flash column chromatography (diethyl ether:hexane 1:1 as eluant) to give the subtitle compound (3.9 g, 61%) as a colourless oil.

reactant | N-methyl benzylamine | 54.2 mmol, 7 ml | CNCC1=CC=CC=C1 | C8H11N
reactant | methyl chlorosulfonylacetate | ClS(=O)(=O)CC(=O)OC | C3H5ClO4S
reactant | water | 30 ml | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | Methyl (N-benzyl-N-methylsulfamoyl)acetate | 3.9 g, 61% | C(C1=CC=CC=C1)N(S(=O)(=O)CC(=O)OC)C | C11H15NO4S
